US05420298
Using an analogous procedure to that described in Example 6, 6-mercapto-1-methyl-1,2,3,4-tetrahydroquinolin-2-one was reacted with 3-(3,5-difluorophenyl)-3-hydroxy-1-(2,2,2-trifluoroethyl)pyrrolidine to give 3-[5-fluoro-3-(1-methyl-2-oxo-1,2,3,4-tetrahydroquinolin-6-ylthio)phenyl]-3-hydroxy-1-(2,2,2-trifluoroethyl)pyrrolidine as a gum in 30% yield.

reactant | 6-mercapto-1-methyl-1,2,3,4-tetrahydroquinolin-2-one | SC=1C=C2CCC(N(C2=CC1)C)=O | C10H11NOS
reactant | 3-(3,5-difluorophenyl)-3-hydroxy-1-(2,2,2-trifluoroethyl)pyrrolidine | FC=1C=C(C=C(C1)F)C1(CN(CC1)CC(F)(F)F)O | C12H12F5NO
product | 3-[5-fluoro-3-(1-methyl-2-oxo-1,2,3,4-tetrahydroquinolin-6-ylthio)phenyl]-3-hydroxy-1-(2,2,2-trifluoroethyl)pyrrolidine | 30% yield | FC=1C=C(C=C(C1)C1(CN(CC1)CC(F)(F)F)O)SC=1C=C2CCC(N(C2=CC1)C)=O | C22H22F4N2O2S
